US03998834
A mixture of 47.2 parts of methyl 4-(phenylamino)-1-(phenylmethyl)-4-piperidinecarboxylate and 130.1 parts of propanoic acid anhydride is stirred and refluxed for 6 hours. The reaction mixture is cooled, poured onto 1000 parts of water and the whole is alkalized with ammonium hydroxide. The product is extracted with 450 parts of trichloromethane. The extract is washed twice with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated, yielding methyl 4-[N-(1-oxopropyl)-N-phenylamino]-1-(phenylmethyl)-4-piperidinecarboxylate as a residue.

reactant | methyl 4-(phenylamino)-1-(phenylmethyl)-4-piperidinecarboxylate | C1(=CC=CC=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)OC | C20H24N2O2
reactant | propanoic acid anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | methyl 4-[N-(1-oxopropyl)-N-phenylamino]-1-(phenylmethyl)-4-piperidinecarboxylate | O=C(CC)N(C1=CC=CC=C1)C1(CCN(CC1)CC1=CC=CC=C1)C(=O)OC | C23H28N2O3
